US20010046993A1
A.1-(4-Bromobutyl)-2-pyrrolidinone
To a suspension of sodium hydride(555 mg/13.9 mmol) in tetrahydrofuran (50 ml) was added 2-pyrrolidinone (0.7 ml/9.26 mmol) at ice-cooling temperature. The mixture was stirred for 1 h at ambient temperature, and then 1,4-dibromobutane (10 g/46.3 mmol) was added at the same temperature. The resulting mixture was stirred overnight. Water (10 ml) was added to the mixture and the mixture was extracted with ethyl acetate (50 ml×2). The combined extracts were washed with water and brine succesively, then dried over magnesium sulfate, filtered and concentrated. The residue was purified by column chromatography (80g/dichloromethane:methanol=100:0-100:5-100:10) to give a colorless oil(2.0 g/90%).

reactant | sodium hydride | 13.9 mmol, 555 mg | [H-].[Na+]
reactant | 2-pyrrolidinone | 9.26 mmol, 0.7 ml | N1C(CCC1)=O | C4H7NO
reactant | 1,4-dibromobutane | 46.3 mmol, 10 g | BrCCCCBr | C4H8Br2
reactant | Water | 10 ml | O | H2O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 1-(4-Bromobutyl)-2-pyrrolidinone | BrCCCCN1C(CCC1)=O | C8H14BrNO
